spice
*MOSFET Circuit
* NMOS Transistor
M1 4 Vin1 3 3 NMOS_MODEL
* Resistors
? Missing component
RS 3 0 1k
* Voltage Source
VDD 2 0 DC 5V
* Input Voltage Source
Vin1 Vin1 0 DC 0V
.model NMOS_MODEL NMOS
.end
